US07015218B1
N-(3-Cyano-4-piperidinophenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine 1 hydrate
Ethyl N-(3-cyano-4-piperidinophenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine (1.0 g) was added to ethanol (10 ml), and 10% aqueous sodium hydroxide solution (10 ml) was added. The mixture was stirred at a refluxing temperature for 30 min. The solvent was evaporated under reduced pressure. Dilute hydrochloric acid was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. A mixed solvent of toluene-diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from hydrous methanol to give the title compound (0.5 g), melting point: 117–120° C.

reactant | Ethyl N-(3-cyano-4-piperidinophenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine | 1.0 g | C(C)C(N(C(=O)C=1N(C=CC1)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)N1CCCCC1)C#N)C(=O)O | C27H27FN4O3
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(3-Cyano-4-piperidinophenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine | 0.5 g | C(#N)C=1C=C(C=CC1N1CCCCC1)N(CC(=O)O)C(=O)C=1N(C=CC1)C1=CC=C(C=C1)F | C25H23FN4O3
